US06878721B1
2-Ethyl-indan-1-one is prepared from benzene following analogous procedures to those used for 2-methyl-2,3,5,6,7,8-hexahydro-cyclopenta[b]naphthalen-1-one.

reactant | 2-methyl-2,3,5,6,7,8-hexahydro-cyclopenta[b]naphthalen-1-one | CC1CC=2C(=CC=3CCCCC3C2)C1=O | C14H16O
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 2-Ethyl-indan-1-one | C(C)C1C(C2=CC=CC=C2C1)=O | C11H12O
